Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
morphine
 
Attending: ___
 
Chief Complaint:
increased seizure frequency
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is a ___ year old woman with focal and
generalized seizures on lamotrigine and oxcarbazepine who
presents with cluster of seven witnessed seizures in the context
of 3 months of increasing seizure frequency.

She had her first seizure while at work today, which she
describes as a complex partial seizure, but she does not 
remember
it, and it was reported to her by a co-worker, who told her that
she appeared pale and tearful. Upon having this event, she was
taken to the ED by EMT, and reportedly had a convulsive seizure
en route. She has had 5 more seizures in the ED, mostly observed
by her husband but also by ED staff, who report leg stiffening
and convulsions of the arms with staring and unresponsiveness. 
In
between these episodes, husband reports that she returns to
baseline, but patient reports that she feels foggy in between
events. She does not have a usual seizure frequency, as her
seizures have become more frequent, but the last complex partial
seizure before today was 1 week ago, and the last witnessed
generalized tonic clonic seizure was 1 month ago. She tends to
have 2 seizures at a time, but has never had more than 3 seizure
in a cluster before. She reports excellent compliance with AEDs.
She had a URI with stuffy nose and no fever about 1 week ago and
sore throat 2 days ago. She tends to get sore throat with sleep
apnea, which she states is worsening as she does not have a CPAP
mask. Stress is another trigger for her, and she has been under 
a
lot of stress recently as she is having issues with her husband
and currently receiving counseling. She reports that she did not
feel particularly stressed today. She drank several alcoholic
beverages about 4 nights ago but since then has not had any
alcohol. 

Regarding seizure history, she was diagnosed in ___ with 
2
GTCs, the first of which lasted 7 minutes. She notes that she 
has
had periods of ___ and staring since her childhood. These
events were found to be seizures on EEG. She was initially
trialed on Keppra, then another agent, both of which she was
unable to tolerate due to abdominal pain and diarrhea. She was
treated with oxcarbazepine and lamictal and achieved
seizure-freedom from ___ to ___, at which 
point
she started having recurrent breakthrough seizures. Lamictal has
since been uptitrated by primary neurologist Dr. ___
considered adding a third agent (zonisamide) for continued break
through seizures. Otherwise, she notes that she avoids caffeine
and decongestants. 

Her semiologies are :
1. complex partial- ___ sensation followed by mental
fogginess noted to have staring and lip smacking followed by
fatigue
2. GTC

On neurologic review of systems, the patient denies headache,
lightheadedness, or confusion. Denies difficulty with producing
or comprehending speech. Denies loss of vision, blurred vision,
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or
dysphagia. Denies focal muscle weakness, numbness, parasthesia.
Denies loss of sensation. Denies bowel or bladder incontinence 
or
retention. Denies difficulty with gait.

On general review of systems, the patient denies fevers, chest
pain, palpitations, cough, nausea, vomiting, diarrhea,
constipation, abdominal pain, dysuria or rash.
 
Past Medical History:
Per OMR:
- OSA confirmed on sleep study, uses CPAP at home but has not 
been using appropriately recently  
- gastric tumor, ? neuroendocrine in ___ s/p resection but no 
XRT or chemo  
- HTN  
- h/o hysterectomy  

 
Social History:
___
Family History:
No Family History of epilepsy.
 
Physical Exam:
Admission PHYSICAL EXAMINATION
 Vitals: 98 104 144/86 16 100% RA 
 General: NAD, obese, resting in bed
 HEENT: NCAT, no oropharyngeal lesions, moist mucous membranes,
sclerae anicteric
 Neck: Supple
 ___: RRR
 Pulmonary: CTAB
 Abdomen: Soft, NT, ND
 Extremities: Warm, no edema
 Skin: No rashes or lesions

Neurologic Examination:
 - Mental Status - Awake, alert, oriented to person, place and
time. Attention to examiner easily maintained. Recalls a 
coherent
history. Speech is fluent with full sentences, intact 
repetition,
and intact verbal comprehension. Content of speech demonstrates
no paraphasias. Normal prosody.

- Cranial Nerves - PERRL 3->2 brisk. VF full to finger wiggling.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally. No dysarthria. Palate elevation
symmetric. Trapezius strength ___ bilaterally. Tongue midline.

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
 L  5    ___   ___  5   5    5  5     5     5
 R  5    ___   ___  5   5    5  5     5     5

- Sensory - No deficits to light touch, pin, or proprioception
bilaterally.

-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    2   2
 R  2  2    2    2   2
 Plantar response flexor bilaterally.

- Coordination - No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait - not assessed.

Discharge physical exam is identical to above
 
Pertinent Results:
___ 04:00AM URINE  UCG-NEG
___ 04:00AM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 04:00AM URINE  BLOOD-NEG NITRITE-POS PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-TR
___ 04:00AM URINE  RBC-0 WBC-4 BACTERIA-MANY YEAST-NONE 
EPI-5
___ 04:00AM URINE  HYALINE-3*
___ 12:14AM   GLUCOSE-98 UREA N-12 CREAT-0.7 SODIUM-135 
POTASSIUM-3.4 CHLORIDE-95* TOTAL CO2-26 ANION GAP-17
___ 12:14AM   WBC-12.9* RBC-4.92 HGB-13.3 HCT-40.1 MCV-82 
MCH-27.0 MCHC-33.2 RDW-13.6 RDWSD-39.9
___ 12:14AM   NEUTS-45.6 ___ MONOS-5.3 EOS-1.3 
BASOS-0.5 IM ___ AbsNeut-5.90 AbsLymp-6.05* AbsMono-0.69 
AbsEos-0.17 AbsBaso-0.06
___ 12:14AM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 12:14AM   PLT SMR-NORMAL PLT COUNT-306
CT HEAD W/O CONTRAST:  1. No acute intracranial abnormality. 2. 
Incidentally noted empty sella sign, which is of unclear 
significance in this patient. 
CHEST PORTABLE AP: Mild prominence the cardiac silhouette is 
unchanged compared with ___ and could be accentuated due 
to low inspiratory volumes and lordotic positioning. Minimal 
atelectasis in the right cardiophrenic region is also relate to 
low lung volumes.  Allowing for this, no focal infiltrate or 
consolidation. 
___ Lamotrigrine level 4.1, Oxcarbazepine level 18.8
 
Brief Hospital Course:
#Neuro: ___ F with focal epilepsy not well-controlled with 
lamotrigine, oxcarbazepine, and lorazepam who presented with 
increased seizure frequency. Potential causes included recent 
URI infection with WBC 12.9 vs worsening of her obstructive 
sleep apnea (had not been using CPAP effectively at home) vs 
increased stress in the setting of marital strife for several 
months.  The goal of this admission was to control/decrease her 
seizure frequency, however patient was placed on continuous EEG 
monitoring to better characterize events if they did occur. Her 
initial seizure work-up prior to admission had EEG showing 
epileptiform discharges in the left temporal lobe and her 
seizures were characterized as focal temporal lobe with 
generalization. During her hospital stay, no episodes were 
captured on EEG and her EEG remained normal, with no 
electrographic seizures or epileptiform discharges. 

Imaging performed included chest xray and head CT. The chest 
xray did not show evidence of focal infiltrate such as 
pneumonia. Head CT showed no intracranial abnormality and empty 
sella (which was consistent with the empty sella also noted in 
___ MRI). The patient was found to have an elevated WBC count, 
however she remained afebrile throughout her hospital stay and 
did not have evidence of pneumonia on chest xray nor did she 
have evidence of UTI on urine analysis. On admission, her 
oxcarbazepine level was 18.5, which is within the therapeutic 
range. Her lamotrigine level was 4.1, which is just above the 
lower limit of the therapeutic range. At this point, the 
etiology for her increased seizure frequency is still unclear. 

With respect to anti-epileptic treatment, Zonisamide (started 
___ was added to pt's preadmission AED regimen of 
oxcarbazepine, lamictal, and lorazepam. She is tolerating the 
zonisamide with some mildsleepiness, but no other significant 
side effects. The addition of zonisamide is in keeping with Dr. 
___ primary neurologist) most recent note which 
discussed consideration of zonisamide for breakthrough events. 
Because her admission lamictal level was just above the lower 
limit of the therapeutic range, the plan was made to increase 
her dose to 225mg BID for one week then to 250mg BID.  Dr. 
___ was called and is in agreement with this regimen.   

#Psych: The patient described marital stress over past few 
months and was noted to only have seizures with her husband in 
the room. This raised concern for PNES in addition to her 
epileptic seizures. Additionally, she was reported to have 
expressed thoughts of self harm, but since denied any thoughts. 
Psychiatry was consulted and discussed the ___ multiple 
stressors with her. She was not thought to be depressed or at 
risk for harming herself. Although the patient declined starting 
an SSRI, she was offered outpt follow up and given the 
appropriate contact information.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OXcarbazepine 900 mg PO QAM 
2. OXcarbazepine 1200 mg PO QPM 
3. LORazepam 1 mg PO QHS 
4. LamoTRIgine 200 mg PO BID 
5. MetFORMIN XR (Glucophage XR) 1500 mg PO DAILY 
6. Cetirizine Dose is Unknown  PO DAILY 
7. Lisinopril 40 mg PO DAILY 
8. Chlorthalidone 25 mg PO DAILY 

 
Discharge Medications:
1.  Chlorthalidone 25 mg PO DAILY  
2.  LamoTRIgine 225 mg PO BID Duration: 7 Days  
3.  LamoTRIgine 250 mg PO BID 
Please start in one week, after taking 225 mg BID for one week   

4.  Lisinopril 40 mg PO DAILY  
5.  MetFORMIN XR (Glucophage XR) 1500 mg PO DAILY  
6.  OXcarbazepine 900 mg PO QAM  
7.  OXcarbazepine 1200 mg PO QPM  
8.  Zonisamide 150 mg PO QHS  
9.  Cetirizine 10 mg PO DAILY  
10.  LORazepam 1 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Increased seizure frequency of undetermined etiology.

 
Discharge Condition:
Pt was alert and orient with fluent, conversational speech, 
baseline cognition and a seizure-free period of over 48 hours. 
She is fully ambulatory.

 
Discharge Instructions:
Ms. ___,

You were admitted for increased seizure frequency with the goal 
of optimizing your seizure medications. We were not able to 
capture one of your seizure events on EEG. You were strated on a 
new medication called Zonisamide. While you were in the hospital 
you did not have a seizure for a period of greater than 48 hours 
and were discharged home with follow-up with your primary 
neurologist, Dr. ___ in ___. You were seen by a 
psychiatrist who recommended follow up with him. Thank you for 
the opportunity to participate in your care. 
 
Followup Instructions:
___